US05610144
0.9 cm3 of 3-methoxyphenyl isocyanate is added to a solution of 2 g of tert-butyl (2RS,5SR)-1-(2-aminoacetyl)-5-phenylprolinate in 20 cm3 of anhydrous tetrahydrofuran. The reaction mixture is stirred for 20 hours at a temperature in the vicinity of 25° C. After evaporation of the solvent under reduced pressure at a temperature in the vicinity of 45° C., the crude product obtained is purified by chromatography on silica [eluent: dichloromethane/methanol (95/5 by volume)]. The fractions containing the expected product are combined, then concentrated to dryness under reduced pressure. After recrystallization in acetonitrile, 1.9 g of tert-butyl (2RS,5SR)-1-{2-[3-(3-methoxyphenyl)ureido]acetyl}-5-phenylprolinate melting at 174° C., are obtained.

reactant | 3-methoxyphenyl isocyanate | 0.9 cm3 | COC=1C=C(C=CC1)N=C=O | C8H7NO2
reactant | tert-butyl (2RS,5SR)-1-(2-aminoacetyl)-5-phenylprolinate | 2 g | NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1 | C17H24N2O3
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | tert-butyl (2RS,5SR)-1-{2-[3-(3-methoxyphenyl)ureido]acetyl}-5-phenylprolinate | 1.9 g | COC=1C=C(C=CC1)NC(NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1)=O | C25H31N3O5
